US04411839
An excess of N-bromosuccinimide in acetic acid is added to 1-(2,4,6-trichloroanilino)-2,4-pyrimidinedione and the mixture is refluxed for 10 hours. It is cooled to RT and is then poured into ice and filtered to give 5-bromo-1-(2,4,6-trichloroanilino)-2,4-pyrimidinedione.

reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 1-(2,4,6-trichloroanilino)-2,4-pyrimidinedione | ClC1=C(NN2C(NC(C=C2)=O)=O)C(=CC(=C1)Cl)Cl | C10H6Cl3N3O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-bromo-1-(2,4,6-trichloroanilino)-2,4-pyrimidinedione | BrC=1C(NC(N(C1)NC1=C(C=C(C=C1Cl)Cl)Cl)=O)=O | C10H5BrCl3N3O2
